US07834190B2
Production of ethyl 2-chloro-3-oxo-4-phenylbutyrate
Ethyl 3-oxo-4-phenylbutyrate (4.8 g, 23 mmol) and methylene chloride (48 ml) were mixed, and sulfuryl chloride (3.1 g, 1 equivalent) was gradually added thereto dropwise. After the addition, the mixture was stirred at 20° C. for 1 hour. The reaction mixture was concentrated under reduced pressure, and saturated aqueous solution of sodium hydrogencarbonate (10 ml) was added, and extraction was carried out with ethyl acetate (20 ml). The solvent was evaporated away under reduced pressure and drying was carried out in vacuum to obtain the title compound as a yellow oil (4.8 g, yield: 86%).

reactant | Ethyl 3-oxo-4-phenylbutyrate | 23 mmol, 4.8 g | O=C(CC(=O)OCC)CC1=CC=CC=C1 | C12H14O3
reactant | sulfuryl chloride | 3.1 g, 1 equivalent | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | 48 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-chloro-3-oxo-4-phenylbutyrate | 4.8 g, yield: 86% | ClC(C(=O)OCC)C(CC1=CC=CC=C1)=O | C12H13ClO3
